US05786374
350 ml of a 48% solution of hydrobromic acid are added to 34.2 g of 1-(6-methoxy-1,2-benzisoxazol-3-yl)ethanone in 350 ml of acetic acid. The reaction mixture is refluxed for 6.5 h, cooled, and then poured onto a mixture of ice/water. The precipitated crude product is isolated by filtration and washed with water. This crude product is purified by chromatography over silica gel with ethyl acetate/hexane (1:3), giving 1-(6-hydroxy-1,2-benzisoxazol-3-yl)ethanone having a melting point of 159°-161° C.

reactant | hydrobromic acid | Br | BrH
reactant | 1-(6-methoxy-1,2-benzisoxazol-3-yl)ethanone | 34.2 g | COC1=CC2=C(C(=NO2)C(C)=O)C=C1 | C10H9NO3
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 1-(6-hydroxy-1,2-benzisoxazol-3-yl)ethanone | OC1=CC2=C(C(=NO2)C(C)=O)C=C1 | C9H7NO3
